US07989449B2
(RS)-4-(4-Methoxy-phenyl)-4-[3(3-methoxy-phenylamino)-phenyl]-4,5-dihydro-oxazol-2-ylamine
A microwave tube was charged with (RS)-4-(3-bromo-phenyl)-4-(4-methoxy-phenyl)-4,5-dihydro-oxazol-2-ylamine (Building Block C, 100 mg, 0.288 mmol), sodium tert-butoxide (55 mg, 0.58 mmol), 2-di-t-butylphosphino-2′,4′,6′-tri-1-propyl-1,1′biphenyl (11 mg, 0.028 mmol), tris(dibenzylideneacetone)dipalladium (7 mg, 0.008 mmol) and 3-methoxyaniline (71 mg, 0.576 mmol). After three vacuum-nitrogen cycles, toluene was introduced (0.7 mL), the tube was scaled and stirred at 100° C. for 16 hours. After cooling to room temperature, water (1 mL) and ethyl acetate (1 mL) were added. The organic fraction of the reaction mixture was placed on an SCX column. This was then washed with dichloromethane/methanol. The desired product was obtained by eluting with 2 M ammonia in methanol. Fractions containing the compound were combined and the product purified further using preparative HPLC to yield 35 mg (31% yield) of the title compound as a white solid.

reactant | (RS)-4-(3-bromo-phenyl)-4-(4-methoxy-phenyl)-4,5-dihydro-oxazol-2-ylamine | 0.288 mmol, 100 mg | BrC=1C=C(C=CC1)C1(N=C(OC1)N)C1=CC=C(C=C1)OC | C16H15BrN2O2
reactant | sodium tert-butoxide | 0.58 mmol, 55 mg | CC(C)([O-])C.[Na+]
reactant | 2-di-t-butylphosphino-2′,4′,6′-tri-1-propyl-1,1′biphenyl | 0.028 mmol, 11 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1CCC)CCC)CCC)C(C)(C)C | C29H45P
reactant | 3-methoxyaniline | 0.576 mmol, 71 mg | COC=1C=C(N)C=CC1 | C7H9NO
catalyst | tris(dibenzylideneacetone)dipalladium | 0.008 mmol, 7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (RS)-4-(4-Methoxy-phenyl)-4-[3(3-methoxy-phenylamino)-phenyl]-4,5-dihydro-oxazol-2-ylamine | COC1=CC=C(C=C1)C1(N=C(OC1)N)C1=CC(=CC=C1)NC1=CC(=CC=C1)OC | C23H23N3O3
